US07595320B2
N-(5-Hydrazinocarbonyl-1H-thieno[2,3-c]pyrazol-3-yl)-4-(4-methylpiperazin-1-yl)-benzamide (0.150 g, 0.318 mmol, 1 eq.), ethanol (1 mL) and, by syringe, benzaldehyde (0.048 mL, 0.47 mmol, 1.3 eq.) are placed in a dry 5 mL round-bottomed flask under argon. Two drops of 5 N hydrochloric acid are added to the suspension. The reaction mixture is stirred at a temperature in the region of 50° C. for 3 hours, the solvent is then evaporated off and the residue is placed directly on a column of neutralized silica gel. Elution is performed with a methanol/dichloromethane mixture (10/90 by volume). The product obtained is directly added to a mixture of 1 mL of tetrahydrofuran and 0.5 mL of 5 N hydrochloric acid. The precipitate obtained is filtered off, washed with water and dried. N-[5-(Benzylidenehydrazinocarbonyl)-1H-thieno[2,3-c]pyrazol-3-yl]-4-(4-methylpiperazin-1-yl)benzamide is obtained in the form of a white solid (0.029 g, 16%). MS: ES m/z=488 MH+ base peak. 1H NMR (400 MHz, (CD3)2SO-d6, δ in ppm): 2.53 (partially masked s, 3H); 2.87 (m, 4H); 3.47 (m, 4H); 7.03 (d, J=9.0 Hz, 2H); from 7.39 to 7.49 (m, 3H); 7.79 (d, J=7.5 Hz, 2H); 8.01 (d, J=9.0 Hz, 2H); 8.28 (s, 1H); 8.39 (s, 1H).

reactant | N-(5-Hydrazinocarbonyl-1H-thieno[2,3-c]pyrazol-3-yl)-4-(4-methylpiperazin-1-yl)-benzamide | 0.318 mmol, 0.150 g, 1 eq. | N(N)C(=O)C1=CC2=C(NN=C2NC(C2=CC=C(C=C2)N2CCN(CC2)C)=O)S1 | C18H21N7O2S
reactant | ethanol | 1 mL | C(C)O | C2H6O
reactant | benzaldehyde | 0.47 mmol, 0.048 mL, 1.3 eq. | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | 5 N, 0.5 mL | Cl | ClH
catalyst | hydrochloric acid | 5 N, Two drops | Cl | ClH
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-[5-(Benzylidenehydrazinocarbonyl)-1H-thieno[2,3-c]pyrazol-3-yl]-4-(4-methylpiperazin-1-yl)benzamide | C(C1=CC=CC=C1)=NNC(=O)C1=CC2=C(NN=C2NC(C2=CC=C(C=C2)N2CCN(CC2)C)=O)S1 | C25H25N7O2S
